US08133911B2
To a cooled mixture (0-5° C.) of (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoic acid (1 g, 3.16 mmol) in CH2Cl2 (20 mL), 1,1-carbonyldiimidazole (CDI) (0.512 g, 3.16 mmol) was added. After stirring for 1 h at 0-5° C. gaseous ammonia was bubbled into the mixture for 4 h and then left stirring at room temperature until the complete disappearance of the starting material. The reaction was quenched adding a H3PO4/H2PO4− buffer solution (pH=2.0, 5 ml), the two phases were separated and the organic one washed with the same buffer (3×10 mL) and water (3×10 mL), dried over anhydrous Na2SO4 and evaporated under vacuum to give (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl) propanamide (788 mg, 2.5 mmol) as a white solid (79%) used without further purification.

reactant | (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl)propanoic acid | 3.16 mmol, 1 g | FC(C=1N=C(SC1)NC1=CC=C(C=C1)[C@H](C(=O)O)C)(F)F | C13H11F3N2O2S
reactant | ammonia | N | H3N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-(4-{[4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}phenyl) propanamide | 2.5 mmol, 788 mg, 79% | FC(C=1N=C(SC1)NC1=CC=C(C=C1)[C@H](C(=O)N)C)(F)F | C13H12F3N3OS
